### PR TITLE
[Merged by Bors] - feat(RingTheory/Adjoin/Polynomial/Basic): `Algebra.adjoin_mem_exists_aeval'` and `Algebra.adjoin_eq_exists_aeval'`

### PR DESCRIPTION
**Pull request by FMLJohn**
In this pull request, I have proved the following result:
Suppose `R` and `A` are commutative semirings with `Algebra R A`, `S` is a subset of `A`, `a` is an element of `A` that belongs to `adjoin R S`, and `f : σ → A` satisfies `S ⊆ Set.range f`, then there exists a multivariate polynomial `p : MvPolynomial σ R` such that `p.aeval f = a`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/Subring/Polynomial.lean [hunk 1]
```diff
@@ -0,0 +1,93 @@
...
+public import Mathlib.Algebra.MvPolynomial.CommRing
+public import Mathlib.Algebra.Polynomial.Eval.Coeff
+
+/-!
+
+# Existence of polynomials that can represent elements of a subring
+
+-/
+
+@[expose] public section
```
Comment (plp127) [inline Mathlib/Algebra/Ring/Subring/Polynomial.lean]:
```suggestion
public section
```
There are no definition, so no need to `@[expose]`.

File: Mathlib/Algebra/Ring/Subring/Polynomial.lean [hunk 2]
```diff
@@ -0,0 +1,93 @@
...
+open MvPolynomial Polynomial
+
+namespace Subring
+
+section Polynomial
+
+theorem exists_polynomial_of_le_range_of_mem_closure
+    {A R : Type*} [CommRing A] [CommRing R] {x y : R} {B : Subring R}
+    {h : A →+* R} (hB : B ≤ h.range) (hy : y ∈ closure (B.carrier.insert x)) :
+    ∃ p : Polynomial A, (p.map h).eval x = y := by
```
Comment (plp127) [inline Mathlib/Algebra/Ring/Subring/Polynomial.lean]: I think normally, instead of having `{h : A →+* R}`, you would add a `[Algebra A R]` assumption and remove `h`. Then you can also remove `B` and have `hy : y ∈ Algebra.adjoin A {x}`. And actually, after you make these changes, it becomes identical to the existing lemma [Algebra.adjoin_mem_exists_aeval](Algebra.adjoin_mem_exists_aeval).

**Comment by plp127** [comment]
Please move your PR description above the `---` line. The part of the PR description above the `---` is used as the commit message when the PR is merged, so right now there wouldn't be any message since the part above the `---` is empty.

File: Mathlib/RingTheory/Adjoin/Polynomial/Basic.lean [hunk 3]
```diff
@@ -73,6 +74,24 @@ theorem adjoin_eq_exists_aeval (a : R[x]) :
...
+    [CommSemiring R] [CommSemiring A] [Algebra R A]
+    {S : Set A} {a : A} {f : σ → A} (hS : S ⊆ Set.range f)
+    (ha : a ∈ adjoin R S) : ∃ p : MvPolynomial σ R, p.aeval f = a := by
+  refine adjoin_induction (fun a ha => ?_) (fun r => ?_) (fun a b ha hb ⟨p, hpa⟩ ⟨q, hqb⟩ => ?_)
+    (fun a b ha hb ⟨p, hpa⟩ ⟨q, hqb⟩ => ?_) ha
+  · obtain ⟨s, hsa⟩ := hS ha
+    exact ⟨MvPolynomial.X s, MvPolynomial.aeval_X (R := R) f s ▸ hsa⟩
+  · exact ⟨MvPolynomial.C r, MvPolynomial.aeval_C (R := R) f r⟩
+  · exact ⟨p + q, hpa ▸ hqb ▸ (MvPolynomial.aeval f).map_add p q⟩
+  · exact ⟨p * q, hpa ▸ hqb ▸ (MvPolynomial.aeval f).map_mul p q⟩
```
Comment (plp127) [inline Mathlib/RingTheory/Adjoin/Polynomial/Basic.lean]: You can take advantage of the fact that we already know the range of `aeval` is a subalgebra to get a shorter proof:

```suggestion
  rw [← AlgHom.mem_range]
  revert a ha
  rw [← SetLike.le_def, adjoin_le_iff, AlgHom.coe_range]
  exact hS.trans (Set.range_subset_range_iff_exists_comp.2 ⟨MvPolynomial.X, funext (by simp)⟩)
```

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

File: Mathlib/RingTheory/Adjoin/Polynomial/Basic.lean [hunk 4]
```diff
@@ -73,6 +74,21 @@ theorem adjoin_eq_exists_aeval (a : R[x]) :
...
   simp_all
 
+lemma adjoin_mem_exists_aeval' {R A σ : Type*}
+    [CommSemiring R] [CommSemiring A] [Algebra R A]
+    {S : Set A} {a : A} {f : σ → A} (hS : S ⊆ Set.range f)
+    (ha : a ∈ adjoin R S) : ∃ p : MvPolynomial σ R, p.aeval f = a := by
+  rw [← AlgHom.mem_range]
+  revert a ha
+  rw [← SetLike.le_def, adjoin_le_iff, AlgHom.coe_range]
+  exact hS.trans (Set.range_subset_range_iff_exists_comp.2 ⟨MvPolynomial.X, funext (by simp)⟩)
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Adjoin/Polynomial/Basic.lean]: I was thinking: don't we already have theorems like this for `MvPolynomial` and `adjoin`? The closest I could find was `Algebra.adjoin_range_eq_range_aeval`, which allows us to shorten the proof a bit:

```suggestion
  have ha : a ∈ adjoin R (Set.range f) := adjoin_mono hS ha
  rw [Algebra.adjoin_range_eq_range_aeval] at ha
  simp_all
```

File: Mathlib/RingTheory/Adjoin/Polynomial/Basic.lean [hunk 5]
```diff
@@ -73,6 +74,21 @@ theorem adjoin_eq_exists_aeval (a : R[x]) :
   rw [Algebra.adjoin_singleton_eq_range_aeval] at this
   simp_all
 
+lemma adjoin_mem_exists_aeval' {R A σ : Type*}
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Adjoin/Polynomial/Basic.lean]: I don't really like this name, it doesn't really indicate the contents of the theorem. Since we already have `adjoin_mem_exists_aeval` I propose:

1. Rename this to something like:
```suggestion
lemma exists_mvPolynomial_aeval_eq_of_mem_adjoin {R A σ : Type*}
```

2. I open a follow-up PR to update the original `adjoin_mem_exists_aeval` above.

File: Mathlib/RingTheory/Adjoin/Polynomial/Basic.lean [hunk 6]
```diff
@@ -73,6 +74,21 @@ theorem adjoin_eq_exists_aeval (a : R[x]) :
...
+    [CommSemiring R] [CommSemiring A] [Algebra R A]
+    {S : Set A} {a : A} {f : σ → A} (hS : S ⊆ Set.range f)
+    (ha : a ∈ adjoin R S) : ∃ p : MvPolynomial σ R, p.aeval f = a := by
+  rw [← AlgHom.mem_range]
+  revert a ha
+  rw [← SetLike.le_def, adjoin_le_iff, AlgHom.coe_range]
+  exact hS.trans (Set.range_subset_range_iff_exists_comp.2 ⟨MvPolynomial.X, funext (by simp)⟩)
+
+lemma adjoin_eq_exists_aeval' {R A σ : Type*}
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Adjoin/Polynomial/Basic.lean]:
```suggestion
lemma exists_mvPolynomial_eq_of_adjoin {R A σ : Type*}
```

**Review by Vierkantor — COMMENTED** [review]
Thanks, these theorems are useful to have. Some comments about the implementation though.

**Comment by Vierkantor** [comment]
Thanks! 🎉 

bors r+
